US06194461B1
Production of α-(2,4-dichlorophenyl)-N-t-butylnitrone
To a suspension of 2,4-dichlorobenzaldehyde (462.1 mg, 2.64 mmol), 1,1-dimethylnitroethane (543.1 mg, 5.27 mmol) and zinc (514.8 mg, 7.88 mmol) in ethanol (3.0 ml) was added acetic acid (944.8 mg, 15.7 mmol) dropwise at 5° C. while stirring. The mixture was stirred at room temperature for one day. Zinc acetate was filtered off and the filtrate was concentrated and purified by silica gel chromatography (hexane/ethyl acetate=5/1).

reactant | 2,4-dichlorobenzaldehyde | 2.64 mmol, 462.1 mg | ClC1=C(C=O)C=CC(=C1)Cl | C7H4Cl2O
reactant | 1,1-dimethylnitroethane | 5.27 mmol, 543.1 mg | CC(C)(C)[N+](=O)[O-] | C4H9NO2
reactant | acetic acid | 15.7 mmol, 944.8 mg | C(C)(=O)O | C2H4O2
solvent | ethanol | 3.0 ml | C(C)O | C2H6O
catalyst | zinc | 7.88 mmol, 514.8 mg | [Zn] | Zn
product | α-(2,4-dichlorophenyl)-N-t-butylnitrone | ClC1=C(C=CC(=C1)Cl)C=[N+]([O-])C(C)(C)C | C11H13Cl2NO
